US04111936
Methyl 3-(5-methyl-2-hydroxybenzoyl)propionate was reacted with epibromohydrin in a similar manner to the procedure described in Example 1(ii) to give methyl 3-[5-methyl-2-(2,3-epoxypropoxy)benzoyl]propionate as an oil.

reactant | Methyl 3-(5-methyl-2-hydroxybenzoyl)propionate | CC=1C=CC(=C(C(=O)CCC(=O)OC)C1)O | C12H14O4
reactant | epibromohydrin | C(Br)C1CO1 | C3H5BrO
product | methyl 3-[5-methyl-2-(2,3-epoxypropoxy)benzoyl]propionate | CC=1C=CC(=C(C(=O)CCC(=O)OC)C1)OCC1CO1 | C15H18O5
